US04034106
In a similar manner using 23.7 g. of ethyl 4-acetamidophenoxyacetate and 60 ml. of ethylenediamine as starting materials there is obtained β-(4-acetamidophenoxyacetamido)ethylamine, m.p. 210°-212° C.

reactant | ethyl 4-acetamidophenoxyacetate | C(C)(=O)NC1=CC=C(OCC(=O)OCC)C=C1 | C12H15NO4
reactant | ethylenediamine | C(CN)N | C2H8N2
product | β-(4-acetamidophenoxyacetamido)ethylamine | C(C)(=O)NC1=CC=C(OCC(=O)NCCN)C=C1 | C12H17N3O3
